US07994326B2
Substituted benzaldehyde (0.01 mol), such as 4-chloro benzaldehyde (1.4 g), was dissolved in dry ethanol (30 mL) and ethanolamine (0.61 g, 0.01 mol) was added. The reaction mixture was stirred overnight at 60° C. The ethanol was evaporated under reduced pressure to give a colorless oil. The oil was then dissolved in dry methanol (30 mL) and cooled in ice. Sodium borohydride (NaBH4, 0.57 g, 0.015 mol) was added slowly in portions, and the resulting solution was left overnight at room temperature. The solvent was evaporated in vacuo, and the residue was dissolved in water, and extracted with CH2Cl2 (3×20 mL). The organic layers were combined and dried with Na2SO4, filtered and evaporated in vacuo to give colorless oily residue, which was purified by column chromatography (silica gel CH2Cl2:MeOH=9:1) to give 2-(4-chlorobenzylamino)-ethanol (II-1, 1.83 g, 99%).

reactant | 4-chloro benzaldehyde | 1.4 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ethanolamine | 0.01 mol, 0.61 g | C(O)CN | C2H7NO
reactant | Sodium borohydride | 0.015 mol, 0.57 g | [BH4-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | methanol | 30 mL | CO | CH4O
product | 2-(4-chlorobenzylamino)-ethanol | 1.83 g, 99% | ClC1=CC=C(CNCCO)C=C1 | C9H12ClNO
